US08217035B2
Synthesis of 2-(1-isopropylpiperidin-4-yloxy)-5-nitropyridine
To a solution of 10% acetic acid in methanol was added 5-nitro-2-(piperidin-4-yloxy)pyridine (1 eq) and anhydrous acetone (5 eq). The solution was stirred at room temperature for 1 hour. The reaction mixture was cooled to 0° C. on an ice bath and sodium cyanoborohydride (1.5 eq) was added. The reaction mixture was then warmed to room temperature and stirred for 5 hours. The solvent was evaporated, the residue brought to pH=10 with sodium carbonate and extracted with EtOAc. The organic layer was washed with water, brine, dried over sodium sulfate, and evaporated to give the crude material. Purification by silica gel column chromatography using 2% methanol/dichloromethane afforded the product as a yellow solid. LC/MS (m/z): 266.3 (MH+), Rt 1.85 minutes.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 5-nitro-2-(piperidin-4-yloxy)pyridine | 1 eq | [N+](=O)([O-])C=1C=CC(=NC1)OC1CCNCC1 | C10H13N3O3
reactant | acetone | 5 eq | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.5 eq | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(1-isopropylpiperidin-4-yloxy)-5-nitropyridine | C(C)(C)N1CCC(CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C13H19N3O3
